US08629133B2
2-Amino-1,5-anhydro-2,3,4-trideoxy-D-erythro-hexitol hydrochloride
1,5-Anhydro-2-[(tert-butoxycarbonyl)amino]-2,3,4-trideoxy-D-erythro-hexitol (Eur. J. Org. Chem., 2003, 2418-2427) (6.00 g, 0.03 mol) was dissolved in methanol (20 ml), 4N hydrochloric acid/1,4-dioxane solution (60 ml) was added and the resulting mixture was stirred at room temperature for 1 hour. The reaction solvent was evaporated under reduced pressure to give 4.5 g (100%) of the title compound as a colorless solid.

reactant | 1,5-Anhydro-2-[(tert-butoxycarbonyl)amino]-2,3,4-trideoxy-D-erythro-hexitol | 0.03 mol, 6.00 g | C(C)(C)(C)OC(=O)N[C@H]1CO[C@@H](CC1)CO | C11H21NO4
reactant | hydrochloric acid 1,4-dioxane | 4N, 60 ml | Cl.O1CCOCC1
solvent | methanol | 20 ml | CO | CH4O
product | 2-Amino-1,5-anhydro-2,3,4-trideoxy-D-erythro-hexitol hydrochloride | 4.5 g, 100% | Cl.N[C@H]1CO[C@@H](CC1)CO | InChI=1S/C6H13NO2.ClH/c7-5-1-2-6(3-8)9-4-5;/h5-6,8H,1-4,7H2;1H/t5-,6+;/m1./s1
